US08193164B2
Intermediate K N-{(1S,2R,3S,4R)-4-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide
N-{(1S,2R,3S,4R)-4-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide dihydrochloride (ca. 7.7 mmol) is dissolved in minimal volume of a mixture of ethanol/saturated aqueous sodium carbonate solution until the pH of the solution is adjusted to pH 7 (ensuring the compound remains in solution). The solution is loaded onto an Isolute™ C18 column and washed through firstly with water and then MeOH. The fractions are combined and concentrated in vacuo and then further purified by repeating the above process to afford the title compound. LCMS (electrospray): m/z [MH+] 571

reactant | N-{(1S,2R,3S,4R)-4-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide dihydrochloride | ca. 7.7 mmol | Cl.Cl.N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | N-{(1S,2R,3S,4R)-4-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C31H38N8O3
